US07312218B2
2-(5-Chlorothiophen-2-yl)-N-(3-(4-(2-((dimethylamino)methyl)-1H-imidazol-1-yl)-2-fluorophenyl)-2-oxo-tetrahydropyrimidin-1(2H)-yl)ethenesulfonamide
18.6 mg (0.046 mmol) of the diHCl salt of 1-amino-3-(4-(2-((dimethylamino)methyl)-1H-imidazol-1-yl)-2-fluorophenyl)-tetrahydropyrimidin-2(1H)-one prepared as above, were dissolved in 3 mL of anhydrous CH2Cl2. To this solution placed under N2 atmosphere were added 50 μL of TEA followed by 11.2 mg (0.046 mmol) of 2-(5-chlorothiophen-2-yl)ethenesulfonyl chloride. The mixture was stirred at room temperature overnight. An additional 3 mL of CH2Cl2 were added, and the mixture was washed twice with 2 mL of saturated NaHCO3 solution. The organic phase was dried and concentrated to yield 17.2 mg of a brown oil. A pure compound was obtained after purification by preparative HPLC. 1H NMR (500 MHz, MeOD) δ 7.53 (t, 1H), 7.49 (s, 1H) 7.41 (d, J=10.4 Hz, 1H), 7.29 (s, 1H), 7.27 (d, J=8.2 Hz, 1H), 6.93(d, J=3.8 Hz, 1H), 6.86 (d, J=3.8 Hz, 1H), 5.1 (m, 1H), 4.45 (q, 2H), 3.5 (m, 2H), 3.14 (m, 1H), 2.86 (s, 6H), 2.0 (m, 2H), ppm. LC-MS (ESI) 556.8 [M+NH4+, tR=4.645 min (Shimadzu Phenomenex S5 ODS 4.6×50 mm Luna flow rate 2.5 ml/mn; detection at 220 nM; Gradient elution 0% to 100% B over 8 min; (A=10% MeOH, 90% H2O, 0.2% H3PO4& B=90% MeOH, 10% H2O, 0.2% H3PO4). HRMS (ESI) m/z calcd for C22H25ClFN6O3S2 [M+H]+ 539.1102. found 539.1105

reactant | 1-amino-3-(4-(2-((dimethylamino)methyl)-1H-imidazol-1-yl)-2-fluorophenyl)-tetrahydropyrimidin-2(1H)-one | NN1C(N(CCC1)C1=C(C=C(C=C1)N1C(=NC=C1)CN(C)C)F)=O | C16H21FN6O
reactant | 2-(5-chlorothiophen-2-yl)ethenesulfonyl chloride | 0.046 mmol, 11.2 mg | ClC1=CC=C(S1)C=CS(=O)(=O)Cl | C6H4Cl2O2S2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-(5-Chlorothiophen-2-yl)-N-(3-(4-(2-((dimethylamino)methyl)-1H-imidazol-1-yl)-2-fluorophenyl)-2-oxo-tetrahydropyrimidin-1(2H)-yl)ethenesulfonamide | 17.2 mg | ClC1=CC=C(S1)C=CS(=O)(=O)NN1C(N(CCC1)C1=C(C=C(C=C1)N1C(=NC=C1)CN(C)C)F)=O | C22H24ClFN6O3S2
